US08461158B2
A mixture of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole (0.40 g, 1 mmol), tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyridine-1(2H)-carboxylate (0.382 g, 1.24 mmol), PdCl2(dppf) (63 mg), and 2 M aqueous Na2CO3 (8 mL) in dioxane (40 mL) was refluxed under nitrogen for 2 hrs. The dioxane was removed under vacuum and the residue was extracted into CH2Cl2. Chromatography on silica eluting with hexanes/EtOAc (8:2) gave 0.27 g (50% yield) of tert-butyl 5-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3,4-dihydro-1(2H)-pyridinecarboxylate: 1H NMR (CDCl3) δ 8.59 (s, 1H), 7.99 (d, J=8.4 Hz, 1H), 7.60 (t, JHF=53.6 Hz, 1H), 7.34 (t, J=8.2 Hz, 1H), 6.81 (d, J=8.1 Hz, 1H), 4.04 (s, 3H), 4.02-3.75 (m, 8H), 3.71-3.64 (m, 2H), 2.56 (t, J=6.1 Hz, 2H), 2.00-1.91 (m, 2H), 1.57 (s, 9H).

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole | 1 mmol, 0.40 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2OC)C(F)F | C16H15ClF2N6O2
reactant | tert-butyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyridine-1(2H)-carboxylate | 1.24 mmol, 0.382 g | CC1(OB(OC1(C)C)C=1CCCN(C1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | Na2CO3 | 2 M, 8 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 63 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 5-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-3,4-dihydro-1(2H)-pyridinecarboxylate | 0.27 g, 50% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C=1CCCN(C1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C26H31F2N7O4
